US06245746B1
(C) Boc-β-(2-Naphthyl)alanyl-Nδ-Boc-Nα-Methylornithine 2-(4-Hydroxyphenyl)ethylamide
Using Procedure B, coupling of Boc-β-(2-naphthyl)alanine and Nδ-Boc-Nα-methylornithine 2-(4-hydroxyphenyl)ethylamide, followed by silica gel chromatography (2.5% MeOH/CH2Cl2): 1H NMR (400 MHz, CDCl3) 6 1.41 (m, 21H), 1.85 (m, 1H), 2.20 (m, 2H), 2.45 (m, 1H), 2.67 (m, 4H), 3.03 (m, 4H), 4.91 (m, 2H), 6.77 (m, 2H), 6.87 (d, J=8.7 Hz, 1H), 6.98 (d, J=10.0 Hz, 1H), 7.34 (m, 1H), 7.46 (m, 2H), 7.66 (m, 1H), and 7.78 (m, 3H); mass spectrum (ES+) m/e 663 (M+1).

reactant | Boc-β-(2-naphthyl)alanine | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC2=CC=CC=C2C=C1)C(=O)O | C18H21NO4
reactant | Nδ-Boc-Nα-methylornithine 2-(4-hydroxyphenyl)ethylamide | OC1=CC=C(C=C1)CCNC([C@@H](NC)CCCNC(=O)OC(C)(C)C)=O | C19H31N3O4
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | Boc-β-(2-Naphthyl)alanyl-Nδ-Boc-Nα-Methylornithine 2-(4-Hydroxyphenyl)ethylamide | OC1=CC=C(C=C1)CCNC([C@@H](N(C)C([C@@H](NC(=O)OC(C)(C)C)CC1=CC2=CC=CC=C2C=C1)=O)CCCNC(=O)OC(C)(C)C)=O | C37H50N4O7
